US04613619
A solution of (3-cyclopenten-1-yl)(4'-methoxy-[1,1'-biphenyl]-4-yl)-methanone (42 g) in methylene dichloride (400 ml) was added over 1 h. to a solution of boron tribromide (30 ml) in methylene dichloride (200 ml) at -70° C. under an atmosphere of nitrogen. The reaction mixture was allowed to warm up slowly at room temperature and was stirred overnight. The solution was poured into water and the mixture was stirred for 10 min. The organic layer was washed twice with water, once with brine and dried (MgSO4). Removal of the solvent gave (3-cyclopenten-1-yl) (4'-hydroxy-[1,1'-biphenyl]-4-yl)-methanone (38.5 g). A small sample recrystallised from ethanol had m.p. 153°-155° C.

reactant | (3-cyclopenten-1-yl)(4'-methoxy-[1,1'-biphenyl]-4-yl)-methanone | 42 g | C1(CC=CC1)C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OC | C19H18O2
reactant | boron tribromide | 30 ml | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | methylene dichloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | methylene dichloride | 200 ml | C(Cl)Cl | CH2Cl2
product | (3-cyclopenten-1-yl) (4'-hydroxy-[1,1'-biphenyl]-4-yl)-methanone | 38.5 g | C1(CC=CC1)C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C18H16O2
